* SPICE3 file created from fulladder.ext - technology: scmos

.option scale=0.12u

M1000 inv_0/A aoi22_0/C aoi22_0/a_n8_96# inv_0/w_n6_98# pmos w=8 l=2
+  ad=48 pd=28 as=128 ps=80
M1001 inv_0/A B aoi22_0/a_n1_8# Gnd nmos w=8 l=2
+  ad=48 pd=28 as=48 ps=28
M1002 gnd C aoi22_0/a_15_8# Gnd nmos w=8 l=2
+  ad=520 pd=338 as=48 ps=28
M1003 aoi22_0/a_n1_8# A gnd Gnd nmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 aoi22_0/a_n8_96# C inv_0/A inv_0/w_n6_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 vdd A aoi22_0/a_n8_96# inv_0/w_n6_98# pmos w=8 l=2
+  ad=424 pd=266 as=0 ps=0
M1006 aoi22_0/a_n8_96# B vdd inv_0/w_n6_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 aoi22_0/a_15_8# aoi22_0/C inv_0/A Gnd nmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 xor3_0/xor2_0/inv_2/A B xor3_0/xor2_0/aoi22_0/a_n8_96# xor3_0/w_128_98# pmos w=8 l=2
+  ad=48 pd=28 as=128 ps=80
M1009 xor3_0/xor2_0/inv_2/A xor3_0/xor2_0/inv_1/Z xor3_0/xor2_0/aoi22_0/a_n1_8# Gnd nmos w=8 l=2
+  ad=48 pd=28 as=48 ps=28
M1010 gnd xor3_0/xor2_0/inv_0/Z xor3_0/xor2_0/aoi22_0/a_15_8# Gnd nmos w=8 l=2
+  ad=0 pd=0 as=48 ps=28
M1011 xor3_0/xor2_0/aoi22_0/a_n1_8# A gnd Gnd nmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1012 xor3_0/xor2_0/aoi22_0/a_n8_96# xor3_0/xor2_0/inv_0/Z xor3_0/xor2_0/inv_2/A xor3_0/w_128_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1013 vdd A xor3_0/xor2_0/aoi22_0/a_n8_96# xor3_0/w_128_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1014 xor3_0/xor2_0/aoi22_0/a_n8_96# xor3_0/xor2_0/inv_1/Z vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 xor3_0/xor2_0/aoi22_0/a_15_8# B xor3_0/xor2_0/inv_2/A Gnd nmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1016 xor3_0/xor2_0/inv_0/Z A gnd Gnd nmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1017 xor3_0/xor2_0/inv_0/Z A vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1018 xor3_0/xor2_0/inv_1/Z B gnd Gnd nmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1019 xor3_0/xor2_0/inv_1/Z B vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1020 aoi22_0/C xor3_0/xor2_0/inv_2/A gnd Gnd nmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1021 aoi22_0/C xor3_0/xor2_0/inv_2/A vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1022 xor3_0/xor2_1/inv_2/A C xor3_0/xor2_1/aoi22_0/a_n8_96# xor3_0/w_128_98# pmos w=8 l=2
+  ad=48 pd=28 as=128 ps=80
M1023 xor3_0/xor2_1/inv_2/A xor3_0/xor2_1/inv_1/Z xor3_0/xor2_1/aoi22_0/a_n1_8# Gnd nmos w=8 l=2
+  ad=48 pd=28 as=48 ps=28
M1024 gnd xor3_0/xor2_1/inv_0/Z xor3_0/xor2_1/aoi22_0/a_15_8# Gnd nmos w=8 l=2
+  ad=0 pd=0 as=48 ps=28
M1025 xor3_0/xor2_1/aoi22_0/a_n1_8# aoi22_0/C gnd Gnd nmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1026 xor3_0/xor2_1/aoi22_0/a_n8_96# xor3_0/xor2_1/inv_0/Z xor3_0/xor2_1/inv_2/A xor3_0/w_128_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1027 vdd aoi22_0/C xor3_0/xor2_1/aoi22_0/a_n8_96# xor3_0/w_128_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1028 xor3_0/xor2_1/aoi22_0/a_n8_96# xor3_0/xor2_1/inv_1/Z vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1029 xor3_0/xor2_1/aoi22_0/a_15_8# C xor3_0/xor2_1/inv_2/A Gnd nmos w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1030 xor3_0/xor2_1/inv_0/Z aoi22_0/C gnd Gnd nmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1031 xor3_0/xor2_1/inv_0/Z aoi22_0/C vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1032 xor3_0/xor2_1/inv_1/Z C gnd Gnd nmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1033 xor3_0/xor2_1/inv_1/Z C vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1034 sum xor3_0/xor2_1/inv_2/A gnd Gnd nmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1035 sum xor3_0/xor2_1/inv_2/A vdd xor3_0/w_128_98# pmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1036 cout inv_0/A gnd Gnd nmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1037 cout inv_0/A vdd inv_0/w_n6_98# pmos w=8 l=2
+  ad=40 pd=26 as=0 ps=0
C0 xor3_0/xor2_0/inv_1/Z vdd 0.14fF
C1 xor3_0/xor2_0/inv_1/Z xor3_0/xor2_0/inv_0/Z 0.14fF
C2 xor3_0/xor2_1/inv_2/A C 0.04fF
C3 xor3_0/w_128_98# A 0.21fF
C4 xor3_0/xor2_1/inv_2/A xor3_0/xor2_1/inv_0/Z 0.09fF
C5 C sum 0.05fF
C6 aoi22_0/C vdd 0.14fF
C7 inv_0/w_n6_98# aoi22_0/C 0.10fF
C8 gnd xor3_0/xor2_0/inv_2/A 0.09fF
C9 inv_0/A sum 0.11fF
C10 cout vdd 0.14fF
C11 inv_0/w_n6_98# cout 0.05fF
C12 inv_0/w_n6_98# B 0.10fF
C13 xor3_0/xor2_1/aoi22_0/a_n8_96# xor3_0/xor2_1/inv_2/A 0.32fF
C14 xor3_0/xor2_0/inv_0/Z B 1.45fF
C15 xor3_0/xor2_1/inv_2/A sum 0.03fF
C16 xor3_0/w_128_98# vdd 0.75fF
C17 xor3_0/w_128_98# xor3_0/xor2_0/inv_0/Z 0.16fF
C18 xor3_0/xor2_1/inv_1/Z C 0.84fF
C19 A xor3_0/xor2_0/inv_2/A 0.02fF
C20 xor3_0/xor2_1/inv_1/Z xor3_0/xor2_1/inv_0/Z 0.14fF
C21 xor3_0/xor2_0/inv_1/Z B 0.87fF
C22 gnd inv_0/A 0.09fF
C23 xor3_0/xor2_1/inv_0/Z gnd 0.14fF
C24 xor3_0/w_128_98# xor3_0/xor2_0/inv_1/Z 0.16fF
C25 xor3_0/xor2_1/inv_2/A gnd 0.09fF
C26 xor3_0/xor2_1/inv_1/Z xor3_0/xor2_1/aoi22_0/a_n8_96# 0.02fF
C27 A xor3_0/xor2_0/aoi22_0/a_n8_96# 0.02fF
C28 aoi22_0/a_n8_96# inv_0/A 0.32fF
C29 C A 0.05fF
C30 aoi22_0/C B 2.75fF
C31 xor3_0/xor2_0/inv_0/Z xor3_0/xor2_0/inv_2/A 0.09fF
C32 gnd sum 0.14fF
C33 A xor3_0/xor2_1/inv_0/Z 0.02fF
C34 xor3_0/w_128_98# aoi22_0/C 0.26fF
C35 xor3_0/xor2_1/inv_2/A A 0.02fF
C36 xor3_0/w_128_98# B 0.21fF
C37 xor3_0/xor2_0/aoi22_0/a_n8_96# vdd 0.55fF
C38 inv_0/w_n6_98# C 0.10fF
C39 C xor3_0/xor2_0/inv_0/Z 0.49fF
C40 A sum 0.08fF
C41 inv_0/w_n6_98# inv_0/A 0.15fF
C42 xor3_0/xor2_1/inv_0/Z vdd 0.14fF
C43 xor3_0/xor2_1/inv_1/Z gnd 0.14fF
C44 xor3_0/xor2_0/inv_2/A aoi22_0/C 0.03fF
C45 xor3_0/xor2_1/aoi22_0/a_n8_96# vdd 0.55fF
C46 xor3_0/xor2_0/inv_1/Z xor3_0/xor2_0/aoi22_0/a_n8_96# 0.02fF
C47 xor3_0/xor2_0/inv_2/A B 0.05fF
C48 xor3_0/xor2_0/inv_1/Z C 0.05fF
C49 sum vdd 0.14fF
C50 xor3_0/xor2_1/inv_1/Z A 0.01fF
C51 xor3_0/w_128_98# xor3_0/xor2_0/inv_2/A 0.15fF
C52 C aoi22_0/C 1.22fF
C53 A aoi22_0/a_n8_96# 0.02fF
C54 C B 0.07fF
C55 inv_0/A aoi22_0/C 0.02fF
C56 xor3_0/xor2_1/inv_0/Z aoi22_0/C 0.10fF
C57 xor3_0/xor2_1/inv_1/Z vdd 0.14fF
C58 inv_0/A cout 0.03fF
C59 xor3_0/xor2_1/inv_0/Z B 0.02fF
C60 xor3_0/w_128_98# xor3_0/xor2_0/aoi22_0/a_n8_96# 0.22fF
C61 xor3_0/w_128_98# C 0.21fF
C62 xor3_0/xor2_0/inv_0/Z gnd 0.14fF
C63 xor3_0/xor2_1/inv_2/A aoi22_0/C 0.02fF
C64 xor3_0/xor2_1/inv_2/A B 0.03fF
C65 xor3_0/xor2_1/aoi22_0/a_n8_96# aoi22_0/C 0.02fF
C66 xor3_0/w_128_98# xor3_0/xor2_1/inv_0/Z 0.16fF
C67 aoi22_0/a_n8_96# vdd 0.55fF
C68 inv_0/w_n6_98# aoi22_0/a_n8_96# 0.22fF
C69 sum aoi22_0/C 0.02fF
C70 xor3_0/w_128_98# xor3_0/xor2_1/inv_2/A 0.15fF
C71 sum cout 0.10fF
C72 sum B 0.06fF
C73 inv_0/w_n6_98# A 0.10fF
C74 xor3_0/xor2_1/aoi22_0/a_n8_96# xor3_0/w_128_98# 0.22fF
C75 A xor3_0/xor2_0/inv_0/Z 0.11fF
C76 xor3_0/xor2_0/inv_1/Z gnd 0.14fF
C77 xor3_0/w_128_98# sum 0.05fF
C78 xor3_0/xor2_0/aoi22_0/a_n8_96# xor3_0/xor2_0/inv_2/A 0.32fF
C79 C xor3_0/xor2_0/inv_2/A 0.05fF
C80 xor3_0/xor2_1/inv_1/Z aoi22_0/C 0.69fF
C81 gnd aoi22_0/C 0.14fF
C82 xor3_0/xor2_1/inv_1/Z B 0.03fF
C83 inv_0/w_n6_98# vdd 0.14fF
C84 xor3_0/xor2_0/inv_1/Z A 0.70fF
C85 xor3_0/xor2_0/inv_0/Z vdd 0.14fF
C86 gnd cout 0.14fF
C87 xor3_0/xor2_1/inv_1/Z xor3_0/w_128_98# 0.16fF
C88 aoi22_0/a_n8_96# B 0.02fF
C89 C inv_0/A 0.09fF
C90 C xor3_0/xor2_1/inv_0/Z 1.45fF
C91 A aoi22_0/C 0.27fF
C92 A B 0.98fF
C93 cout Gnd 0.41fF
C94 inv_0/A Gnd 1.05fF
C95 aoi22_0/C Gnd 2.90fF
C96 sum Gnd 0.66fF
C97 xor3_0/xor2_1/inv_2/A Gnd 1.05fF
C98 xor3_0/xor2_1/inv_1/Z Gnd 1.06fF
C99 C Gnd 2.95fF
C100 xor3_0/xor2_1/inv_0/Z Gnd 1.26fF
C101 xor3_0/xor2_1/aoi22_0/a_n8_96# Gnd 0.12fF
C102 A Gnd 2.75fF
C103 vdd Gnd 1.91fF
C104 xor3_0/w_128_98# Gnd 4.75fF
C105 gnd Gnd 2.92fF
C106 xor3_0/xor2_0/inv_2/A Gnd 1.05fF
C107 xor3_0/xor2_0/inv_1/Z Gnd 1.06fF
C108 B Gnd 2.83fF
C109 xor3_0/xor2_0/inv_0/Z Gnd 1.26fF
C110 xor3_0/xor2_0/aoi22_0/a_n8_96# Gnd 0.12fF
C111 aoi22_0/a_n8_96# Gnd 0.12fF
C112 inv_0/w_n6_98# Gnd 1.29fF


*
* INDEPENDANT VOLTAGE SOURCE
*
*Vname +NODE -NODE VALUE
*----- ----- ----- -----
*VDD    1     0     DC=3
Vpower vdd gnd 3


* The following two lines are for TRANSIENT analysis
*
*Vname +Node -Node Option T1  V1   T2  V2   T3   V3    T4  V4  T5   V5 
*----- ----- ----- ------ --  --   --  --   ---- --    --  --  ---- -- 
Vin1 A gnd pwl(0 0 40n 0 40.1n 3 80n 3 80.1n 0)
Vin2 B gnd pwl(0 0 20n 0 20.1n 3 40n 3 40.1n 0 60n 0 60.1n 3 80n 3 80.1n 0)
Vin3 C gnd pwl(0 0 10n 0 10.1n 3 20n 3 20.1n 0 30n 0 30.1n 3 40n 3 40.1n 0 50n 0 50.1n 3 60n 3 60.1n 0 70n 0 70.1n 3 80n 3 80.1n 0)


*     TSTEP TSTOP
*     ----- -----
.TRAN 0.1N  90N


* The following line is for DC analysis

*.DC VIN 0 2.6 0.1


* TEMPERATURE and OPTIONS SETTING

.OPTIONS TEMP=25 reltol = 1e-6 

*MODELS

.include tsmc_cmos025

.END
